US09315458B2
E) methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-4-cyclopropyl-2-hydroxybenzoate
To a solution of methyl 4-cyclopropyl-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.36 g) in a mixed solvent of DME (5.70 mL)-water (1.90 mL) were added 1-(4-(bromomethyl)phenyl)-1H-pyrazole (0.27 g), tetrakis(triphenylphosphine)palladium(0) (0.07 g) and sodium carbonate (0.24 g), and the mixture was stirred overnight at 80° C. under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, water and ethyl acetate were added thereto, and the mixture was partitioned. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.26 g).

reactant | methyl 4-cyclopropyl-2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.36 g | C1(CC1)C1=CC(=C(C(=O)OC)C=C1B1OC(C(O1)(C)C)(C)C)O | C17H23BO5
reactant | DME | 5.70 mL | COCCOC | C4H10O2
reactant | 1-(4-(bromomethyl)phenyl)-1H-pyrazole | 0.27 g | BrCC1=CC=C(C=C1)N1N=CC=C1 | C10H9BrN2
reactant | sodium carbonate | 0.24 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 1.90 mL | O | H2O
product | methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-4-cyclopropyl-2-hydroxybenzoate | 0.26 g | N1(N=CC=C1)C1=CC=C(CC=2C(=CC(=C(C(=O)OC)C2)O)C2CC2)C=C1 | C21H20N2O3
